2146-03-14 10:16:00 Physician Resident Progress Note
Chief Complaint: please see admit note for details.
   24 Hour Events:
 SHEATH - START [**2146-3-13**] 11:45 AM
   from cath lab
 INVASIVE VENTILATION - START [**2146-3-13**] 11:55 AM
 NASAL SWAB - At [**2146-3-13**] 01:00 PM
 SHEATH - STOP [**2146-3-13**] 01:25 PM
   from cath lab
 SHEATH - START [**2146-3-13**] 01:31 PM
 SHEATH - STOP [**2146-3-13**] 01:35 PM
 EKG - At [**2146-3-13**] 02:00 PM
 INVASIVE VENTILATION - STOP [**2146-3-13**] 03:15 PM
   Allergies:
   Allopurinol
   Thrombocytopeni
   Cimetidine
   Hepatic toxicit
   Pioglitazone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2146-3-13**] 01:00 PM
   Lansoprazole (Prevacid) - [**2146-3-13**] 06:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-14**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 96 (78 - 100) bpm
   BP: 93/55(63) {70/42(47) - 110/64(71)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 91%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  3,929 mL
                                                                    126 mL
   PO:
             TF:
   IVF:
                                                                  3,929 mL
                                                                    126 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    330 mL
   Urine:
                                                                  1,170 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,359 mL
                                                                   -204 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 258 (258 - 258) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 91%
   ABG: 7.34/34/89.[**Numeric Identifier 126**]/21/-6
   Ve: 10.6 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: Trace, Left: Trace, right groin with 3cm x 3cm
   hematoma; left groin with dressing and no clear hematoma
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   181 K/uL
   10.5 g/dL
   133 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.9 mEq/L
   16 mg/dL
   107 mEq/L
   137 mEq/L
   30.7 %
   9.8 K/uL
        [image002.jpg]
                             [**2146-3-13**]  10:00 AM
                             [**2146-3-13**]  11:27 AM
                             [**2146-3-13**]  12:46 PM
                             [**2146-3-13**]  01:07 PM
                             [**2146-3-13**]  05:40 PM
                             [**2146-3-13**]  06:00 PM
                             [**2146-3-14**]  05:23 AM
   WBC
   19.7
   9.8
   Hct
   32.5
   34
   30.7
   Plt
   197
   188
   181
   Cr
   1.3
   1.2
   TropT
   7.90
   TCO2
   19
   19
   Glucose
   291
   195
   188
   133
   Other labs: PT / PTT / INR:15.1/28.2/1.3, CK / CKMB /
   Troponin-T:1372/142/7.90, ALT / AST:44/139, Alk Phos / T Bili:80/0.9,
   Albumin:3.1 g/dL, Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   89yo male with history of CVA in [**2143**] with disordered breathing, T2DM
   was admitted with recurrent chest pain after previous admission 2 weeks
   ago with 3 vessel disease s/p DES to RCA and found to have stent
   thrombosis.
   1. Chest Pain
   Patient found to have stent thrombosis and taken emergently to the cath
   lab where he underwent export of thrombus and POBA.
   - continue aspirin and plavix
   - restart lisinopril once weaned off dopamine.
   - trend CK to peak
   2. Shock
   Patient was continued on dopamine overnight, likely related to
   myocardial stunning.
   - try to wean dopamine as tolerated for goal MAP of 60
   - re-echo on discharge.
   3. Atrial Fibrillation
   New finding of atrial fibrillation, likely post resuscitation and
   related to dopamine, epinephrine, and atropine.
   - try to wean dopamine and see if atrial fibrillation converts
   - if he doesn't auto-convert, will do cardioversion while in unit.
   4. Hypoxia
   Pt has history of disordered breathing following stroke (usually on
   CPAP) and also has evidence of progression of emphysema and ILD on
   Chest CT. Appears euvolemic.
   - continue Flovent 220 [**Hospital1 7**], and spiriva.
   - Continue O2 NC to maintain sat >88%
   - Pt will follow up with Pulmonary ([**First Name8 (NamePattern2) 4305**] [**Last Name (NamePattern1) 2721**]) as outpatient, eval
   for home O2
   6. History of CVA
   Patient has had a stroke in the past, unclear if this was related to a
   previous episode of atrial fibrillation. His stroke has caused complex
   disordered breathing - pt has refused further treatment with CPAP or
   home O2 as outpatient
   - continue plavix
   7. HTN -
   - restart lisinopril and metoprolol once BP improves
   8. Type 2 diabetes - hold metformin while in house, continue insulin
   SS
   .
   9. Hypothyroidism - continue synthroid
   .
   #. FEN - cardiac
   #. Access: PIV
   #. PPx: PPI, heparin SC.  .
   #. Code: Full
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-3-13**] 11:45 AM
   20 Gauge - [**2146-3-13**] 11:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute STEMI, stent thrombosis, acute systolic and
   diastolic CHF, atrial fibrillation, renal failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/9/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2146-3-14**] 13:34 ------

2146-03-15 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2146-3-14**] 02:00 PM
   - Weaned off Dopamine around 11am.
   - Successful DCCV
   - Increased Plavix to 150mg PO daily (previous stroke not hemorrhagic
   per OMR reports)
   - Deferring anticoagulation for now but could benefit from Holter as
   outpt to see how often in and out of afib
   This am, denies CP, SOB. Reports chest wall pain and cough.
   Allergies:
   Allopurinol
   Thrombocytopeni
   Cimetidine
   Hepatic toxicit
   Pioglitazone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Propofol - [**2146-3-14**] 02:00 PM
   Hydromorphone (Dilaudid) - [**2146-3-14**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-3-14**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-15**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.7
   HR: 79 (72 - 107) bpm
   BP: 117/62(75) {70/45(47) - 117/73(80)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    273 mL
                                                                     60 mL
   PO:
                                                                     90 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    183 mL
   Blood products:
   Total out:
                                                                    995 mL
                                                                    175 mL
   Urine:
                                                                    995 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -722 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress, sitting up in
   bed
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (RRR. Blowing [**3-11**] holosystolic murmur radiaing to apex
   Peripheral Vascular: (DP/PT 1+BL
   Extremities: Right groin with 3cm x 3cm hematoma and ecchymoses; left
   groin with clean dressing and no clear hematoma
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   181 K/uL
   10.5 g/dL
   158 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   19 mg/dL
   110 mEq/L
   140 mEq/L
   30.7 %
   9.8 K/uL
        [image002.jpg]
                             [**2146-3-13**]  10:00 AM
                             [**2146-3-13**]  11:27 AM
                             [**2146-3-13**]  12:46 PM
                             [**2146-3-13**]  01:07 PM
                             [**2146-3-13**]  05:40 PM
                             [**2146-3-13**]  06:00 PM
                             [**2146-3-14**]  05:23 AM
                             [**2146-3-14**]  04:20 PM
   WBC
   19.7
   9.8
   Hct
   32.5
   34
   30.7
   Plt
   197
   188
   181
   Cr
   1.3
   1.2
   1.2
   TropT
   7.90
   4.41
   3.34
   TCO2
   19
   19
   Glucose
   291
   195
   188
   133
   158
   Other labs: PT / PTT / INR:15.1/28.2/1.3, CK / CKMB /
   Troponin-T:330/21/3.34, ALT / AST:44/139, Alk Phos / T Bili:80/0.9,
   Albumin:3.1 g/dL, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   89yo male with history of CAD s/p stent placement (DES to RCA in [**2-14**]),
   T2DM, and CVA in [**2143**] with disordered breathing  was admitted with
   recurrent chest pain admission and found to have stent thrombosis.
   1. Chest Pain
   Patient found to have stent thrombosis and taken emergently to the cath
   lab where he underwent export of thrombus and POBA.
   - continue aspirin, high dose plavix, and beta blocker
   - restart lisinopril once weaned off dopamine.
   2. Shock
   Patient
s BP has now improved off dopamine and now back in sinus
   rhythm.
   3. Atrial Fibrillation
   Patient developed new finding of atrial fibrillation, likely post
   resuscitation and related to dopamine, epinephrine, and atropine. He
   has remained in sinus rhythm after cardioversion on [**2146-3-14**].
   - continue telemetry
   4. Hypoxia
   Pt has history of disordered breathing following stroke (usually on
   CPAP) and also has evidence of progression of emphysema and ILD on
   Chest CT. Appears euvolemic.
   - continue Flovent 220 [**Hospital1 7**], and spiriva.
   - Continue O2 NC to maintain sat >88%
   - Pt will follow up with Pulmonary ([**First Name8 (NamePattern2) 4305**] [**Last Name (NamePattern1) 2721**]) as outpatient, eval
   for home O2
   5. History of CVA
   Patient has had a stroke in the past, unclear if this was related to a
   previous episode of atrial fibrillation. His stroke has caused complex
   disordered breathing - pt has refused further treatment with CPAP or
   home O2 as outpatient
   - continue plavix
   6. HTN -
   - continue ACEI and BB
   7. Type 2 diabetes
   Hold metformin while in house, continue insulin SS
   8. Hypothyroidism - continue synthroid
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-3-13**] 11:45 AM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute STEMI, right ventricular ischemia, atrial
   fibrillation.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/10/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Name (NI) **], MD
   on:[**2146-3-16**] 07:58 ------

2146-03-16 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2146-3-15**] 10:00 AM
   - TTE: Worse wall motion with EF 60 -> 50%.
   - Rehab [**Month (only) **] shows he didn't miss [**Last Name (Titles) **], plavix doses at rehab.
   Allergies:
   Allopurinol
   Thrombocytopeni
   Cimetidine
   Hepatic toxicit
   Pioglitazone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-3-16**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-16**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 73 (71 - 97) bpm
   BP: 97/49(61) {85/49(60) - 119/67(77)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,020 mL
                                                                    240 mL
   PO:
                                                                  1,020 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    794 mL
                                                                    127 mL
   Urine:
                                                                    794 mL
                                                                    127 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    226 mL
                                                                    113 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, sitting up in
   bed
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (RRR. Blowing [**3-11**] holosystolic murmur radiaing to apex)
   +2 part rub
   Peripheral Vascular: (DP/PT 1+BL
   Extremities: Right groin with 3cm x 3cm hematoma and ecchymoses; left
   groin with clean dressing and no clear hematoma
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   202 K/uL
   10.5 g/dL
   126 mg/dL
   1.3 mg/dL
   21 mEq/L
   4.2 mEq/L
   21 mg/dL
   105 mEq/L
   137 mEq/L
   31.6 %
   14.3 K/uL
        [image002.jpg]
                             [**2146-3-13**]  10:00 AM
                             [**2146-3-13**]  11:27 AM
                             [**2146-3-13**]  12:46 PM
                             [**2146-3-13**]  01:07 PM
                             [**2146-3-13**]  05:40 PM
                             [**2146-3-13**]  06:00 PM
                             [**2146-3-14**]  05:23 AM
                             [**2146-3-14**]  04:20 PM
                             [**2146-3-15**]  06:23 AM
                             [**2146-3-16**]  05:15 AM
   WBC
   19.7
   9.8
   10.9
   14.3
   Hct
   32.5
   34
   30.7
   30.7
   31.6
   Plt
   197
   188
   181
   200
   202
   Cr
   1.3
   1.2
   1.2
   1.1
   1.3
   TropT
   7.90
   4.41
   3.34
   TCO2
   19
   19
   Glucose
   291
   195
   188
   133
   158
   114
   126
   Other labs: PT / PTT / INR:15.0/29.5/1.3, CK / CKMB /
   Troponin-T:330/21/3.34, ALT / AST:44/139, Alk Phos / T Bili:80/0.9,
   Albumin:3.1 g/dL, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   [**3-15**] Echo: The left atrium is mildly dilated. The left ventricular
   cavity size is normal. There is mild regional left ventricular systolic
   dysfunction with basal to mid inferior/inferolateral
   akinesis/hypokinesis. The right ventricular cavity is dilated with
   normal free wall contractility. The aortic valve leaflets are mildly
   thickened. No aortic regurgitation is seen. The mitral valve leaflets
   are moderately thickened. There is moderate thickening of the mitral
   valve chordae. Mild to moderate ([**1-7**]+) mitral regurgitation is seen.
   The tricuspid valve leaflets are mildly thickened. There is no
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2146-3-3**], the
   inferior/inferolateral regional wall motion abnormalities are now more
   severe. Estimated pulmonary artery systolic pressure is now lower.
   Mitral regurgitation is now less prominent.
   89yo male with history of CAD s/p stent placement (DES to RCA in [**2-14**]),
   T2DM, and CVA in [**2143**] with disordered breathing  was admitted with
   recurrent chest pain admission and found to have stent thrombosis.
   1. Chest Pain
   Patient found to have stent thrombosis and taken emergently to the cath
   lab where he underwent export of thrombus and POBA.
   - continue aspirin, high dose plavix, and beta blocker
   - restarted lisinopril
   1.5. Cardiac rub new today.  Ddx includes post MI pericarditis; less
   likely contained RV rupture.  Echo ok yesterday.
   - ekg today
   - NSAIDs, consider colchicine if no improvement
   - monitor closely
   2. Shock
   Patient
s BP has now improved off dopamine and now back in sinus
   rhythm.
   3. Atrial Fibrillation
   Patient developed new finding of atrial fibrillation, likely post
   resuscitation and related to dopamine, epinephrine, and atropine. He
   has remained in sinus rhythm after cardioversion on [**2146-3-14**].
   - continue telemetry
   4. Hypoxia.  Improved.  On minimal oxygen.
   Pt has history of disordered breathing following stroke (usually on
   CPAP) and also has evidence of progression of emphysema and ILD on
   Chest CT. Appears euvolemic.
   - continue Flovent 220 [**Hospital1 7**], and spiriva.
   - Continue O2 NC to maintain sat >88%
   - Pt will follow up with Pulmonary ([**First Name8 (NamePattern2) 4305**] [**Last Name (NamePattern1) 2721**]) as outpatient, eval
   for home O2
   5. History of CVA
   Patient has had a stroke in the past, unclear if this was related to a
   previous episode of atrial fibrillation. His stroke has caused complex
   disordered breathing - pt has refused further treatment with CPAP or
   home O2 as outpatient
   - continue plavix
   6. HTN -
   - continue ACEI and BB
   7. Type 2 diabetes
   Hold metformin while in house, continue insulin SS
   8. Hypothyroidism - continue synthroid
   9. Dispo: call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2146-3-13**] 11:45 AM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now

2146-03-17 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2146-3-16**] 08:45 PM
   ? AF rate 100-120s
 EKG - At [**2146-3-16**] 10:09 PM
   ? vagal, HR down to 40-50s, ? accelerated junctional
 EKG - At [**2146-3-16**] 10:55 PM
   .
 EKG - At [**2146-3-16**] 11:30 PM
   .
 CARDIAC CATH - At [**2146-3-17**] 12:20 AM
 STOOL CULTURE - At [**2146-3-17**] 02:00 AM
   r/o Cdiff
 SHEATH - START [**2146-3-17**] 03:00 AM
   arterial
 SHEATH - STOP [**2146-3-17**] 05:30 AM
   Arterial
   -patient had poor UO throughout day, gave increments of boluses up
   until 1L, around 6pm he went into Afib and Hr ~100 and hypotensive to
   SBP.  He was doing that for about 2 hours and then bradyed and was
   unresponsive for minutes. BS 172, HR to the 40-50s.  New junctional
   rhythm. Fellow called and patient looked crappy. EKG with new STE in
   II,III, AvF, put on dopamine max at 10 and levophed with SBP no higher
   than 80s. Taken to cath. Had new RCA occlusion, 1 more BMS.
   -still hypotensive after and in Afib, given 500cc bolus
   -had guaic pos stool, sent for Cdiff
   Allergies:
   Allopurinol
   Thrombocytopeni
   Cimetidine
   Hepatic toxicit
   Pioglitazone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 2.5 mcg/Kg/min
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-3-16**] 02:29 PM
   Atropine - [**2146-3-16**] 11:26 PM
   Heparin Sodium - [**2146-3-16**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-17**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.5
C (95.9
   HR: 105 (45 - 116) bpm
   BP: 78/43(73) {60/34(41) - 109/62(93)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.2 kg (admission): 70 kg
             Total In:
                                                                  2,353 mL
                                                                    407 mL
   PO:
                                                                  1,060 mL
             TF:
   IVF:
                                                                  1,293 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                    393 mL
                                                                     85 mL
   Urine:
                                                                    393 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,960 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.44/21/66/17/-6
   Physical Examination
   General Appearance: ill appearing, mildly diaphoretic
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, dry MMM, JVP to 9cm
   Cardiovascular: (RRR. Blowing [**3-11**] holosystolic murmur radiating to
   apex) + harsh systolic rub
   Peripheral Vascular: (DP/PT 1+BL
   Extremities: cool extremities,  Right groin with 3cm x 3cm hematoma and
   ecchymoses; left dressig, 1+edema b/l feet
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   219 K/uL
   9.5 g/dL
   204 mg/dL
   1.6 mg/dL
   17 mEq/L
   4.6 mEq/L
   41 mg/dL
   105 mEq/L
   134 mEq/L
   26.8 %
   15.7 K/uL
        [image002.jpg]
                             [**2146-3-13**]  01:07 PM
                             [**2146-3-13**]  05:40 PM
                             [**2146-3-13**]  06:00 PM
                             [**2146-3-14**]  05:23 AM
                             [**2146-3-14**]  04:20 PM
                             [**2146-3-15**]  06:23 AM
                             [**2146-3-16**]  05:15 AM
                             [**2146-3-16**]  11:37 PM
                             [**2146-3-17**]  05:09 AM
                             [**2146-3-17**]  05:20 AM
   WBC
   9.8
   10.9
   14.3
   17.9
   15.7
   Hct
   30.7
   30.7
   31.6
   32.4
   26.8
   Plt
   181
   200
   202
   267
   219
   Cr
   1.2
   1.2
   1.1
   1.3
   1.7
   1.6
   TropT
   7.90
   4.41
   3.34
   2.97
   TCO2
   19
   15
   Glucose
   195
   188
   133
   158
   114
   126
   223
   204
   Other labs: PT / PTT / INR:16.4/34.6/1.5, CK / CKMB /
   Troponin-T:378/21/2.97, ALT / AST:44/139, Alk Phos / T Bili:80/0.9,
   Lactic Acid:1.2 mmol/L, Albumin:3.1 g/dL, Ca++:8.2 mg/dL, Mg++:2.1
   mg/dL, PO4:3.1 mg/dL
   A/P: 89yo male with history of CAD s/p stent placement (DES to RCA in
   [**2-14**]), T2DM, and CVA in [**2143**] with disordered breathing  was admitted
   with recurrent chest pain admission and found to have stent thrombosis.
   RCA STEMI/Instent thrombosis x2: New RCA infarct overnight, s/p
   emergent cath and stent to RCA proximal to where other stents had been.
   Etiology unclear as patient was on double dose of Plavix. ? Plavix
   resistance. Cardiac rub more prominent today  Ddx includes post MI
   pericarditis; less likely contained RV rupture.
   - post cath check at noon
   - continue heparin gtt
   - hematology consult for recurring stent
   - trend Cardaic Enzymes for peak, monitor EKG
   - levophed pressors for MAP>60
   - try to wean dopamine first as it causes more coronary
   vasoconstriction than levophed
   - repeat ECHO to evaluate for systolic function
   - 150mg plavix daily, aspirin 325mg
   Atrial Fibrillation: Patient developed atrial fibrillation, likely post
   resuscitation and related to dopamine, epinephrine, and atropine during
   first STEMI. He has remained in sinus rhythm after cardioversion on
   [**2146-3-14**] until 6pm on [**3-16**].  When he went to cath, cardioversion was
   attempted but was unsuccessful. Currently rate controlled.
   - on heparin post cath
   - amiodarone load 150mg bolus with IV drip
   - consider another attempt at cardioversion if amiodarone doesn
t work
   Hypotension: Likely secondary to cardiogenic shock. RV infarct, so
   patient needs preload. Atrial fibrillation is also effecting his blood
   pressure
   - fluids
   - wean peripheral dopamine
   - norepinephrine
   - Place a-line today
   - obtain central access
   Anemia: post cath hct drop 5 point, SBP holding in 90s, has active T+S
   -repeat hct
   -transfuse for hct<25
   Chest Wall Pain:Patient received CPR with Vfib arrest on first STEMI
   with subsequent chest wall pain
   -continue pain control with Tylenol for now as afraid most analgesia
   with drop pressure
   Hypoxia:  Improved. History of Emphysema and ILD
   Pt has history of disordered breathing following stroke (usually on
   CPAP) and also has evidence of progression of emphysema and ILD on
   Chest CT. Appears euvolemic.
   - continue Flovent 220 [**Hospital1 7**], and spiriva.
   - Continue O2 NC to maintain sat >88%
   - Pt will follow up with Pulmonary ([**First Name8 (NamePattern2) 4305**] [**Last Name (NamePattern1) 2721**]) as outpatient, eval
   for home O2
   History of CVA
   Patient has had a stroke in the past, unclear if this was related to a
   previous episode of atrial fibrillation. His stroke has caused complex
   disordered breathing - pt has refused further treatment with CPAP or
   home O2 as outpatient
   - continue plavix
   Type 2 diabetes
   Hold metformin while in house, continue insulin SS
   Hypothyroidism - continue synthroid
   Dispo: ICU for now
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  well controlled
   Lines:
   18 Gauge - [**2146-3-13**] 11:45 AM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer:  PPI
   Communication:  Comments: self
   Code status: Full code
   Disposition: CCU for now